US06881844B2
A solution of triphenylphosphine (179 mg, 0.68 mmol) in methylene chloride (3 mL) cooled to 0° C. was treated with N-bromosuccinimide (122 mg, 0.68 mmol). This solution was stirred at 0° C. for 15 min. At this time, the reaction was treated with 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid (125 mg, 0.53 mmol). This solution was stirred at 0° C. for 5 min and then was allowed to warm to 25° C. where it was stirred for 30 min. The reaction was then treated with 2-amino-thiazole (121 mg, 1.21 mmol) and was stirred at 25° C. for 3 d. At this time, the reaction was partitioned between water (30 mL) and ethyl acetate (30 mL). The organic layer was separated and then washed with a 1N aqueous hydrochloric acid solution (1×20 mL), a saturated aqueous sodium bicarbonate solution (1×20 mL), water (1×20 mL), and a saturated aqueous sodium chloride solution (1×20 mL). The organic layer was then dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 1/1 hexanes/ethyl acetate) afforded 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid thiazol-2-ylamide (62 mg, 37%) as a pink solid: mp 202-204° C.; EI-HRMS m/e calcd for C17H16ClN3O (M+) 319.0546, found 319.0547.

reactant | triphenylphosphine | 0.68 mmol, 179 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.68 mmol, 122 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid | 0.53 mmol, 125 mg | ClC1=CC=C2C(=CN(C2=C1)C(C)C)C(=O)O | C12H12ClNO2
reactant | 2-amino-thiazole | 1.21 mmol, 121 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | 62 mg, 37% | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)Cl)C(C)C | C15H14ClN3OS
